US07645753B2
3-Ethoxy-4-(3-methyl-but-2-enyloxy)-benzaldehyde
The title compound was prepared analogously to intermediate 2 (4-methoxy-3-propoxy-benzaldehyde) by reaction of 3-ethoxy-4-hydroxy-benzaldehyde with 1-bromo-3-methyl-2-butene in DMF using K2CO3 as base. MS (ISN): 233.1 [M−H]−.

reactant | 3-ethoxy-4-hydroxy-benzaldehyde | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | 1-bromo-3-methyl-2-butene | BrCC=C(C)C | C5H9Br
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Ethoxy-4-(3-methyl-but-2-enyloxy)-benzaldehyde | C(C)OC=1C=C(C=O)C=CC1OCC=C(C)C | C14H18O3
